US04497813
2,3-dihydroxybenzoic acid methyl ester is reacted in the presence of potassium carbonate in acetonitrile with 1.1 equivalents of 1-dibenzylamino-2-chloroethane for 18 hours at 82°. The crude 3-(2-dibenzylaminoethoxy)-salicylic acid methyl ester obtained after working up is put to further use without further purification.

reactant | 2,3-dihydroxybenzoic acid methyl ester | COC(C1=C(C(=CC=C1)O)O)=O | C8H8O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-dibenzylamino-2-chloroethane | 1.1 equivalents | C(C1=CC=CC=C1)N(CCCl)CC1=CC=CC=C1 | C16H18ClN
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(2-dibenzylaminoethoxy)-salicylic acid methyl ester | COC(C=1C(O)=C(C=CC1)OCCN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C24H25NO4
